### PR TITLE
[Merged by Bors] - feat(Analysis/InnerProductSpace/Adjoint): `(range T)ᗮ = ker T` for normal operators

### PR DESCRIPTION
**Pull request by themathqueen**
Co-authored-by: Jireh Loreaux <loreaujy@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -405,16 +405,16 @@ theorem IsPositive.of_isStarProjection {p : E →L[𝕜] E}
...
-* `(range p)ᗮ = ker p` -/
+* `p` is positive -/
 theorem IsIdempotentElem.TFAE {p : E →L[𝕜] E} (hp : IsIdempotentElem p) :
-    [IsStarNormal p, IsSelfAdjoint p, p.IsPositive,
-      (LinearMap.range p)ᗮ = LinearMap.ker p].TFAE := by
-  tfae_have 1 ↔ 2 := hp.isSelfAdjoint_iff_isStarNormal.symm
-  tfae_have 2 ↔ 3 := hp.isPositive_iff_isSelfAdjoint.symm
-  tfae_have 2 ↔ 4 := p.isSelfAdjoint_iff_isSymmetric.eq ▸
+    [(LinearMap.range p)ᗮ = LinearMap.ker p, IsStarNormal p, IsSelfAdjoint p,
+      p.IsPositive].TFAE := by
```
Comment (ocfnash) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Total nit but I find this a lot easier to read:
```suggestion
    [(LinearMap.range p)ᗮ = LinearMap.ker p, 
      IsStarNormal p,
      IsSelfAdjoint p,
      p.IsPositive].TFAE := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/InnerProductSpace/Positive.lean (hunk 1 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: same tbh
